US06057322
3-Methylsulfonyl-4-(4-nitrophenoxy)benzoic acid was prepared by reacting 0.02 mol of 3-methylsulfonyl-4-phenoxybenzoic acid with 0.96 ml of 100% nitric acid at -10° C. in a mixture composed of 8 ml of acetic anhydride and 4 ml of glacial acetic acid. After the mixture had been stirred at this temperature for 1.5 hours, it was then stirred at room temperature for 24 hours and at 40° C. for a further 6 hours. It was then poured into ice water and the amorphous, oily product was crystallized with water by stirring. Yellow crystalline substance,

reactant | 3-methylsulfonyl-4-phenoxybenzoic acid | 0.02 mol | CS(=O)(=O)C=1C=C(C(=O)O)C=CC1OC1=CC=CC=C1 | C14H12O5S
reactant | nitric acid | 0.96 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 8 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 3-Methylsulfonyl-4-(4-nitrophenoxy)benzoic acid | CS(=O)(=O)C=1C=C(C(=O)O)C=CC1OC1=CC=C(C=C1)[N+](=O)[O-] | C14H11NO7S
